US08242260B2
To a solution of 3-(4-(4-(3-amino-5-chloro-2-fluorophenyl)-2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)pyrimidin-2-ylamino)propanenitrile (0.58 g, 1.1 mmol) in EtOH (10 mL) was added concentrated HCl (1 mL). The resulting reaction was maintained at room temperature for 9 hours after which the reaction mixture was concentrated and partitioned between water (60 mL) and EtOAc (250 mL). The layers were separated and the aqueous portion was neutralized with solid NaHCO3, and then extracted with EtOAc (200, 100 mL). The combined organic portions were then extracted with 0.1 M aqueous HCl solution (2×100 mL). The combined acidic aqueous extracts were neutralized with solid NaHCO3 and extracted with EtOAc (2×100 mL). The combined organic phases were washed with brine, dried (Na2SO4), and then concentrated to furnish 3-(4-(4-(3-amino-5-chloro-2-fluorophenyl)-2-cyclopropyl-1H-imidazol-5-yl)pyrimidin-2-ylamino)propanenitrile (328 mg) as an amber residue which was carried forward without further purification: LCMS(m/z) 398.1 (MH+), tR=0.55 minute.

reactant | 3-(4-(4-(3-amino-5-chloro-2-fluorophenyl)-2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)pyrimidin-2-ylamino)propanenitrile | 1.1 mmol, 0.58 g | NC=1C(=C(C=C(C1)Cl)C=1N=C(N(C1C1=NC(=NC=C1)NCCC#N)COCC[Si](C)(C)C)C1CC1)F | C25H31ClFN7OSi
reactant | HCl | 1 mL | Cl | ClH
solvent | EtOH | 10 mL | CCO | C2H6O
product | 3-(4-(4-(3-amino-5-chloro-2-fluorophenyl)-2-cyclopropyl-1H-imidazol-5-yl)pyrimidin-2-ylamino)propanenitrile | 328 mg | NC=1C(=C(C=C(C1)Cl)C=1N=C(NC1C1=NC(=NC=C1)NCCC#N)C1CC1)F | C19H17ClFN7
